US08541332B2
(1) Synthesis of dithienyldimethoxysilane
With protection of nitrogen gas, 3.50 g magnesium powder, 1.30 g bromothiophene and 20 ml tetrahydrofuran were added to a 250 ml three-necked flask equipped with a stirrer, a reflux condenser tube and a thermometer. After the mixed system was refluxed for 0.5 hour, 0.26 g iodine was added until the reaction got severe. After the reaction was stable, a mixed solution of 20.74 g bromothiophene, 60 ml tetrahydrofuran and 9.99 g tetramethoxysilane was added dropwise from an upper part of tube within about 2 hours. After being heated with stirring and refluxing for 5 hours, the mixed system was slowly cooled to room temperature, filtered by a filter tube with protection of nitrogen gas, and the solid substance was washed with tetrahydrofuran several times. The resulting filtrate was subjected to distillation at normal pressure and solvent recovery, and then subjected to distillation at reduced pressure. The product at 130° C. to 131° C. and 25 mmHg column pressure were collected. Te infrared spectrum and 13C nuclear magnetic resonance spectrum of the synthesized compound are substantially identical with that in FIG. 1 and FIG. 2. The infrared spectrum preliminarily approves the occurrence of the synthetic reaction, and the 13C nuclear magnetic resonance spectrum effectively demonstrates the formation of the product.

reactant | magnesium | 3.50 g | [Mg] | Mg
reactant | bromothiophene | 1.30 g | BrC=1SC=CC1 | C4H3BrS
reactant | iodine | 0.26 g | II | I2
reactant | bromothiophene | 20.74 g | BrC=1SC=CC1 | C4H3BrS
reactant | tetramethoxysilane | 9.99 g | CO[Si](OC)(OC)OC | C4H12O4Si
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | dithienyldimethoxysilane | S1C(=CC=C1)[Si](OC)(OC)C=1SC=CC1 | C10H12O2S2Si
